US06057315
2,4,5-Trimethoxybenzoyl Chloride
To a suspension of 2,4,5-trimethoxybenzoic acid (2.12 g, 10 mmol) in dry 10 mL benzene was added thionyl chloride (4.4 mL, 60 mmol). The reaction mixture was stirred at 70° C. for 5 hr. The solvent was evaporated in vacuo. The residue was washed with hexane to give 2.07 g of the title compound which was used for the next step without further purification. 1H NMR (CDCl3) δ: 7.65 (1 H, s), 6.50 (1 H, s), 4.05 (3 H, s), 3.97 (3 H, s), 3.86 (3 H, s).

reactant | 2,4,5-trimethoxybenzoic acid | 10 mmol, 2.12 g | COC1=C(C(=O)O)C=C(C(=C1)OC)OC | C10H12O5
reactant | thionyl chloride | 60 mmol, 4.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 2,4,5-Trimethoxybenzoyl Chloride | 2.07 g | COC1=C(C(=O)Cl)C=C(C(=C1)OC)OC | C10H11ClO4
